US08383629B2
(±)-(E)-2-(7-chloro-1′-(3-(5-fluoro-2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid
The title compound was prepared employing a procedure analogous to that described in Example 1 using methyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate and 5-fluoro-2-(trifluoromethyl)cinnamic acid followed by a procedure analogous to that described in Example 2. LC-MS Method 1 tR=1.93, min, m/z=496, 498; 1H NMR (CDCl3) 1.20-1.40 (3H), 1.70 (m, 1H), 2.39 (m, 1H), 2.51 (m, 1H), 2.65-3.05 (4H), 3.36 (m, 1H), 3.62 (br s, 1H), 4.06 (d, 1H), 4.79 (d, 1H), 6.83 (d, 1H), 7.0-7.5 (5H), 7.70 (m, 1H), 7.87 (d, 1H).

reactant | methyl 2-(7-chloro-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | ClC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OC | C16H20ClNO2
reactant | 5-fluoro-2-(trifluoromethyl)cinnamic acid | FC=1C=CC(=C(C=CC(=O)O)C1)C(F)(F)F | C10H6F4O2
product | (±)-(E)-2-(7-chloro-1′-(3-(5-fluoro-2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | ClC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC(=C3)F)C(F)(F)F)=O)C12)CC(=O)O | C25H22ClF4NO3
